US04373060
β,β-Diphenyl-α-cyanoacrylic acid (I).
To 200 ml. of methanol:water (1:4) solution containing 55 g. (0.2 mole) of ethyl β,β-diphenyl-α-cyanoacrylate (CYASORB N-35, American Cyanamid), 18 g. of 50% NaOH (0.22 mole) is added and the soluton is stirred at about 20° C. overnight. After it is washed with ether, the aqueous solution is neutralized with dilute HCl to precipitate the product. The yield is 48 g., 97%, m.p., 207°-209° C.

reactant | ethyl β,β-diphenyl-α-cyanoacrylate | 0.2 mole | C1(=CC=CC=C1)C(=C(C(=O)OCC)C#N)C1=CC=CC=C1 | C18H15NO2
reactant | NaOH | 0.22 mole | [OH-].[Na+]
solvent | methanol water | CO.O
product | β,β-Diphenyl-α-cyanoacrylic acid | C1(=CC=CC=C1)C(=C(C(=O)O)C#N)C1=CC=CC=C1 | C16H11NO2
